US07084177B2
1-(Methylsulfonyloxy)-2-[4-(methylsulfonyloxy)phenyl]ethane
2-(4-Hydroxyphenyl)ethanol(356 g, 2.58 mol, 1.0 eq) was dissolved in methylene chloride (3500 ml) and triethyl amine (653 g, 6.44 mol, 2.5 eq). The mixture was cooled to −20° C. Methanesulfonyl chloride (657 g, 5.74 mol. 2.2 eq) was then added keeping the temperature between −25° C. and −15° C. When the conversion was >95% salts were formed which were filtered off and washed with methylene chloride (600 ml). The organic layer was washed first with saturated sodium hydrogencarbonate solution (700 ml) at 20° C. followed by water (700 ml). The methylene chloride was evaporated to dryness and the remaining residue was then used in the subsequent step.

reactant | 2-(4-Hydroxyphenyl)ethanol | 2.58 mol, 356 g, 1.0 eq | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | triethyl amine | 6.44 mol, 653 g, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 5.74 mol, 657 g, 2.2 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 3500 ml | C(Cl)Cl | CH2Cl2
product | 1-(Methylsulfonyloxy)-2-[4-(methylsulfonyloxy)phenyl]ethane | CS(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C10H14O6S2
